US08084489B2
To a mixture of (±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carboxylic acid ethyl ester (0.458 g, 0.961 mmol) in THF (9.0 mL) is added lithium hydroxide (1N aqueous, 9.0 mL). The mixture is warmed to 70° C. and stirred overnight. The reaction mixture is cooled to rt, acidified with 1N HCl (9.5 mL), extracted into ethyl acetate (3×25 mL), dried over MgSO4, and concentrated to provide (±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carboxylic acid (0.431 g, 96%) as a white foam. MS (ES): 463.2 [M−H]−.

reactant | (±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carboxylic acid ethyl ester | 0.961 mmol, 0.458 g | C(C)OC(=O)C=1SC(=CC1)C(C(C)C)SC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C | C26H27F3O2S2
reactant | lithium hydroxide | 1N, 9.0 mL | [OH-].[Li+]
reactant | HCl | 1N, 9.5 mL | Cl | ClH
solvent | THF | 9.0 mL | C1CCOC1 | C4H8O
product | (±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carboxylic acid | 0.431 g, 96% | CC1=C(C(=CC(=C1)SC(C(C)C)C1=CC=C(S1)C(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C24H23F3O2S2
